US08138345B2
Preparation of 4-Nitrobenzenesulfonic Acid 2-[3-(Tritylamino)phenyl]ethyl Ester
To a stirred solution of 2-[3-(tritylamino)phenyl]ethanol (5.00 g, 13.2 mmol) and triethylenediamine (2.22 g, 19.8 mmol) in DCM (52.7 mL) under nitrogen at 0° C. was added portion-wise p-nitrobenzenesulfonyl chloride (3.50 g, 15.8 mmol) over a period of 5 min. The resulting mixture stirred at 0° C. for 40 min and then saturated aqueous sodium bicarbonate solution (˜50 mL) was added. The mixture was stirred at room temperature for 10 min and then the layers were separated. The aqueous layer was extracted with DCM (2×˜50 mL) and the combined organic layers were dried over sodium sulfate, filtered, and concentrated under reduced pressure to give the title compound (7.44 g, 100% yield) as an orange-yellow foamy solid.

reactant | 2-[3-(tritylamino)phenyl]ethanol | 13.2 mmol, 5.00 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1C=C(C=CC1)CCO | C27H25NO
reactant | triethylenediamine | 19.8 mmol, 2.22 g | C1CN2CCN1CC2 | C6H12N2
reactant | p-nitrobenzenesulfonyl chloride | 15.8 mmol, 3.50 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | sodium bicarbonate | ˜50 mL | C([O-])(O)=O.[Na+]
solvent | DCM | 52.7 mL | C(Cl)Cl | CH2Cl2
product | 4-Nitrobenzenesulfonic Acid 2-[3-(Tritylamino)phenyl]ethyl Ester | 7.44 g, 100% yield | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1C=C(C=CC1)CCOS(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C33H28N2O5S
